US09102636B2
A mixture of 2-amino-4-nitrophenol (12.5 g, 71 mmol) and potassium ethyl xanthate (13 g, 81 mmol) were dissolved in ethanol (200 mL). The reaction was heated at reflux overnight. After cooling, solvent in the reaction mixture was evaporated under reduced pressure. The resultant residue was dissolved in water and adjusted to pH 2-3 with 2N HCl, resulting in the formation of a red solid. The red solid was filtered giving 2-mercapto-5-nitrobenzoxazole (10.6 g, 76%).

reactant | 2-amino-4-nitrophenol | 71 mmol, 12.5 g | NC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H6N2O3
reactant | potassium ethyl xanthate | 81 mmol, 13 g | O(C(=S)[S-])CC.[K+]
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 2-mercapto-5-nitrobenzoxazole | 10.6 g, 76% | SC=1OC2=C(N1)C=C(C=C2)[N+](=O)[O-] | C7H4N2O3S
